US08039479B2
To a solution of 4-(5-isopropoxy-2-methyl-4-nitrophenyl)-N,N-dimethylcyclohex-3-enamine (0.1 mmol) in 10 mL of MeOH, is added Pd/C (5 mg) under argon. The suspension is stirred under 1 atm. H2 for 6 hours. After filtering, solvent is removed and 4-(4-(dimethylamino)cyclohexyl)-2-isopropoxy-5-methylaniline is obtained. MS (ES+): 291.24 (M+1)+.

reactant | 4-(5-isopropoxy-2-methyl-4-nitrophenyl)-N,N-dimethylcyclohex-3-enamine | 0.1 mmol | C(C)(C)OC=1C(=CC(=C(C1)C1=CCC(CC1)N(C)C)C)[N+](=O)[O-] | C18H26N2O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 4-(4-(dimethylamino)cyclohexyl)-2-isopropoxy-5-methylaniline | CN(C1CCC(CC1)C1=CC(=C(N)C=C1C)OC(C)C)C | C18H30N2O
